* Test: What can the regulator deliver WITHOUT current limiting?
.title ILIM_NOILIM

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir

* Dummy current limiter that does nothing
.subckt current_limiter gate bvdd pvdd gnd ilim_flag ibias
Rdummy ilim_flag gnd 1Meg
.ends current_limiter

.include design.cir

Vbvdd bvdd 0 PWL(0 0 10u 7 100 7)
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven en 0 PWL(0 0 0.5u 0 1u 2.2)
Ven_ret en_ret 0 0

Iload pvdd 0 PWL(0 0 19.999m 0 20m ILOAD_AMPS 100 ILOAD_AMPS)
Rbleed pvdd 0 10Meg

XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag startup_done pvdd_regulator

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
.temp 27
.ic V(pvdd)=0 V(bvdd)=0
.tran 10u 50m uic

.control
run
let pvdd_final = v(pvdd)[length(v(pvdd))-1]
print pvdd_final
quit
.endc
.end
